US05137905
Part A. 1-Methyl-3-(2-propynyl)-2-imidazolidinone
A suspension of potassium hydride (10.44 g of a 35% by wt suspension in mineral oil, washed with ether to remove oil, 0.09 mol) in dry THF (50 mL) was added dropwise, with cooling, to a stirred solution of 1-methyl-2-imidazolidinone (7.6 g, 0.076 mol) in dry THF (150 mL). After warming to room temperature and stirring for 20 min, the reaction was cooled again and propargyl bromide (13.54 g of an 80% solution in toluene, 0.09 mol) was added dropwise. The reaction was then allowed to slowly warm to room temperature and was stirred for 0.5 hr. The reaction was quenched with methanol and water and the solvents were removed under reduced pressure. The residual oil was partitioned between ethyl acetate and water; evaporation of the organic phase gave 10.65 g crude product. The compound was purified by chromatography on silica gel in chloroform to get 4.51 g of crystalline product.

reactant | potassium hydride | [H-].[K+]
reactant | 1-methyl-2-imidazolidinone | 0.076 mol, 7.6 g | CN1C(NCC1)=O | C4H8N2O
reactant | propargyl bromide | C(C#C)Br | C3H3Br
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Methyl-3-(2-propynyl)-2-imidazolidinone | 4.51 g | CN1C(N(CC1)CC#C)=O | C7H10N2O
